US07118787B2
9,9-Dioctyl-2-(4-nonylphenyl)-7-octyloxyfluorene:
A mixture of tetrakis(triphenylphosphine)palladium(0) (0.5 g, 4.64×10−4 mol), 2-bromo-9,9-dioctyl-7-octyloxyfluorene (5.04 g, 0.00844 mol), 4-nonylphenylboronic acid (2.30 g, 0.00929 mol), 20% aqueous sodium carbonate solution (40 cm3) and N,N-dimethylformamide (150 cm3) was heated under reflux overnight. The reaction mixture was filtered and extracted into diethyl ether (2×100 cm3). The combined organic layers were washed with water (2×100 cm3), dried (MgSO4), filtered and the solvent removed under partially reduced pressure. The residue was purified by column chromatography [silica gel, dichloromethane: hexane: 30:70] (yield 3.65 g, 60.0%).

reactant | 2-bromo-9,9-dioctyl-7-octyloxyfluorene | 0.00844 mol, 5.04 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCCCCCCC)(CCCCCCCC)CCCCCCCC | C37H57BrO
reactant | 4-nonylphenylboronic acid | 0.00929 mol, 2.30 g | C(CCCCCCCC)C1=CC=C(C=C1)B(O)O | C15H25BO2
reactant | sodium carbonate | 40 cm3 | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.64×10−4 mol, 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 150 cm3 | CN(C=O)C | C3H7NO
product | 9,9-Dioctyl-2-(4-nonylphenyl)-7-octyloxyfluorene | C(CCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C1=CC=C(C=C1)CCCCCCCCC)OCCCCCCCC)CCCCCCCC | C52H80O
